US09126972B2
6.1: 6-Chloro-2-(cyclopropylmethyl-amino)-nicotinic acid
In a sealable tube, 3 g (42 mmol) of cyclopropylmethylamine is added to 3 g (14 mmol) of 2,6-dichloronicotinic acid in solution in tert-butanol (14 ml), the tube is sealed and heated at 170° C. for 30 minutes in a Biotage Initiator microwave. The reaction mixture is cooled to room temperature, diluted in dichloromethane (100 ml) and washed with a 10% aqueous solution of acetic acid (12 ml). The organic phase is dried over Na2SO4, filtered, concentrated and dried under vacuum. 3.4 g of product is obtained in the form of an orange oil.

reactant | cyclopropylmethylamine | 42 mmol, 3 g | C1(CC1)CN | C4H9N
reactant | 2,6-dichloronicotinic acid | 14 mmol, 3 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
solvent | tert-butanol | 14 ml | C(C)(C)(C)O | C4H10O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 6-Chloro-2-(cyclopropylmethyl-amino)-nicotinic acid | 3.4 g | ClC1=NC(=C(C(=O)O)C=C1)NCC1CC1 | C10H11ClN2O2
